US06248740B1
Production of 4-(diphenylmethyl)-1-[2-(2-hydroxyethoxy)ethyl]piperazine
1.00 g of 1-(diphenylmethyl)piperazine was dissolved in 10 ml of N,N-dimethylformamide; 0.42 ml of 2-(2-chloroethoxy)ethanol, 0.59 g of sodium iodide and 0.66 g of potassium carbonate were added, followed by stirring at 100° C. for 1 hour. Ice water was added, followed by extraction with ethyl ether; the extract was washed with saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with dichloromethane:ethyl acetate:methanol (10:10:1). The desired fraction was collected and concentrated to yield 1.47 g of the title compound.

reactant | 1-(diphenylmethyl)piperazine | 1.00 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | 2-(2-chloroethoxy)ethanol | 0.42 ml | ClCCOCCO | C4H9ClO2
reactant | sodium iodide | 0.59 g | [I-].[Na+]
reactant | potassium carbonate | 0.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(diphenylmethyl)-1-[2-(2-hydroxyethoxy)ethyl]piperazine | 1.47 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCO)C1=CC=CC=C1 | C21H28N2O2
